US05434150
2-[4-(2-Amino-2-propyl)-phenyl]-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole
Prepared from 2-[4-(2-aminocarbonyl-2-propyl)-phenyl]-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole by treating with [bis(trifluoroacetoxy)-iodo]benzene in acetonitrile/water at ambient temperature.

reactant | 2-[4-(2-aminocarbonyl-2-propyl)-phenyl]-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | NC(=O)C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC | C23H26N4O4
reactant | [bis(trifluoroacetoxy)-iodo]benzene | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | acetonitrile water | C(C)#N.O
product | 2-[4-(2-Amino-2-propyl)-phenyl]-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | NC(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC | C22H26N4O3
